US07547667B1
A reaction flask equipped with a Dean Stark trap was charged with 2,6-dimethyl cyclohehanone (200 g), 2,3-butanediol (315 g), p-toluenesulfonic acid (2 g) and toluene (300 mL). The reaction mass was heated to reflux (110-130° C.). Water (36 mL) was collected in the Dean Stark trap. When no water was recovered the reaction mass was cooled to an ambient temperature, neutralized with 10% aqueous sodium carbonate (100 mL) and washed with brine. Purification by vacuum distillation afforded 2,3,6,10-tetramethyl-1,4-dioxaspiro[4,5]decane (265 g)), which had a boiling point of 104° C. at a pressure of 16 mmHg.

reactant | 2,3-butanediol | 315 g | CC(C(C)O)O | C4H10O2
reactant | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3,6,10-tetramethyl-1,4-dioxaspiro[4,5]decane | 265 g | CC1OC2(OC1C)C(CCCC2C)C | C12H22O2
